US09260427B2
Prepared using General Procedure 7: A stirred solution of (S)-tert-butyl 1-((S)-2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-2-carboxylate (306 mg, 0.522 mmol) and 5-(tert-butyl)thiophene-2-carboxylic acid (106 mg, 0.574 mmol) in DMF (6 mL) was added TEA (145 μl, 1.043 mmol), cooled to 0° C., then HATU (218 mg, 0.574 mmol) was slowly added over 5 minutes. The reaction was stirred at room temperature for 2 h, then diluted with EA (70 mL), washed with saturated aqueous NaHCO3 (70 mL) and brine (100 mL). The solvent was dried over MgSO4 and removed. The crude product was purified by chromatography 0-30% ACN in DCM to afford 363 mg (92%) of (S)-tert-butyl 1-((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl) propanoyl)pyrrolidine-2-carboxylate as a sticky solid. LCMS-ESI (m/z) calculated for C44H56N4O5S: 752.4; no m/z observed, tR=11.99 min (Method 10).

reactant | (S)-tert-butyl 1-((S)-2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-2-carboxylate | 0.522 mmol, 306 mg | N[C@H](C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C35H46N4O4
reactant | 5-(tert-butyl)thiophene-2-carboxylic acid | 0.574 mmol, 106 mg | C(C)(C)(C)C1=CC=C(S1)C(=O)O | C9H12O2S
reactant | HATU | 0.574 mmol, 218 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EA | 70 mL | CC(OCC)=O | C4H8O2
product | (S)-tert-butyl 1-((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl) propanoyl)pyrrolidine-2-carboxylate | 363 mg, 92% | C(C)(C)(C)C1=CC=C(S1)C(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C44H56N4O5S
